US08207147B2
trans-4-[5-(4-Pentyl-cyclohexyl)-[1,3,4]thiadiazol-2-yl]pyridine
A solution of 4-pentyl-cyclohexanecarboxylic acid N′-(pyridine-4-carbonyl)hydrazide (Preparation 19, 50 mg, 0.158 mmol) and Lawesson's reagent (127 mg, 0.32 mmol) in toluene (2 ml) was heated under reflux for 18 h. The solvent was evaporated and the residue purified by flash chromatography (IH-EtOAc, 4:1 then EtOAc) to afford the title compound: RT=5.02 min; m/z (ES+)=316.0 [M+H]+.

reactant | 4-pentyl-cyclohexanecarboxylic acid N′-(pyridine-4-carbonyl)hydrazide | 0.158 mmol, 50 mg | N1=CC=C(C=C1)C(=O)NNC(=O)C1CCC(CC1)CCCCC | C18H27N3O2
reactant | Lawesson's reagent | 0.32 mmol, 127 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | trans-4-[5-(4-Pentyl-cyclohexyl)-[1,3,4]thiadiazol-2-yl]pyridine | C(CCCC)[C@@H]1CC[C@H](CC1)C1=NN=C(S1)C1=CC=NC=C1 | C18H25N3S
